** sch_path:
*+ /mnt/c/Users/DRC/Desktop/elec/4th/4th_fall/elec451/final_project/design/xschem/logic_or.sch
.subckt logic_or A[0] A[1] A[2] A[3] A[4] A[5] A[6] A[7] Y[0] Y[1] Y[2] Y[3] Y[4] Y[5] Y[6] Y[7] VSS
+ VDD B[0] B[1] B[2] B[3] B[4] B[5] B[6] B[7]
*.PININFO A[0:7]:I Y[0:7]:O VSS:B VDD:B B[0:7]:I
x1 A[0] B[0] VSS VDD Y[0] or2
x2 A[1] B[1] VSS VDD Y[1] or2
x3 A[2] B[2] VSS VDD Y[2] or2
x4 A[3] B[3] VSS VDD Y[3] or2
x5 A[4] B[4] VSS VDD Y[4] or2
x6 A[5] B[5] VSS VDD Y[5] or2
x7 A[6] B[6] VSS VDD Y[6] or2
x8 A[7] B[7] VSS VDD Y[7] or2
.ends

* expanding   symbol:  or2.sym # of pins=5
** sym_path: /mnt/c/Users/DRC/Desktop/elec/4th/4th_fall/elec451/final_project/design/xschem/or2.sym
** sch_path: /mnt/c/Users/DRC/Desktop/elec/4th/4th_fall/elec451/final_project/design/xschem/or2.sch
.subckt or2  A B VSS VDD OUT
*.PININFO A:I B:I VSS:B VDD:B OUT:O
XM3 net1 A net2 VDD sky130_fd_pr__pfet_01v8 L=0.3 W=6 nf=3 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM4 net2 B VDD VDD sky130_fd_pr__pfet_01v8 L=0.3 W=6 nf=3 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM1 net1 A VSS VSS sky130_fd_pr__nfet_01v8 L=0.3 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM2 net1 B VSS VSS sky130_fd_pr__nfet_01v8 L=0.3 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM5 OUT net1 VDD VDD sky130_fd_pr__pfet_01v8 L=0.3 W=3 nf=3 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
XM6 OUT net1 VSS VSS sky130_fd_pr__nfet_01v8 L=0.3 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W'
+ sa=0 sb=0 sd=0 mult=1 m=1
.ends

.end
